US07304081B2
Step 2. 3-tert-butylpyrrolidin-3-ol hydrochloride
tert-Butyl 3-tert-butyl-3-hydroxypyrrolidine-1-carboxylate (0.60 g, 0.0025 mol) was dissolved in a solution of hydrogen chloride in 1,4-dioxane (4N, 0.30 mL, 0.0099 mol) under N2 at rt. The reaction mixture was stirred for 3 h at rt, then concentrated in vacuo. The crude product was used directly in the next step without further purification. (M+H) 144.1

reactant | tert-Butyl 3-tert-butyl-3-hydroxypyrrolidine-1-carboxylate | 0.0025 mol, 0.60 g | C(C)(C)(C)C1(CN(CC1)C(=O)OC(C)(C)C)O | C13H25NO3
reactant | 1,4-dioxane | 0.0099 mol, 4N, 0.30 mL | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
product | 3-tert-butylpyrrolidin-3-ol hydrochloride | Cl.C(C)(C)(C)C1(CNCC1)O | InChI=1S/C8H17NO.ClH/c1-7(2,3)8(10)4-5-9-6-8;/h9-10H,4-6H2,1-3H3;1H
